US06391874B1
6-(5-Methyl-1,3,4-oxadiazol-2-yl)quinazolin-4-one
6-(1,2,3,4-Tetrazol-5-yl)-quinazolin-4-one (3.31 g) was treated with acetic anhydride (115 ml) at reflux under N2 for 1 hour. The anhydride was removed in vacuo, the residue absorbed onto silica and purified by chromatography to give the title compound as a white solid (3.47 g). The analytical data was consistent with that given earlier.

reactant | 6-(1,2,3,4-Tetrazol-5-yl)-quinazolin-4-one | 3.31 g | N1N=NN=C1C=1C=C2C(NC=NC2=CC1)=O | C9H6N6O
reactant | acetic anhydride | 115 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 6-(5-Methyl-1,3,4-oxadiazol-2-yl)quinazolin-4-one | 3.47 g | CC1=NN=C(O1)C=1C=C2C(NC=NC2=CC1)=O | C11H8N4O2
